Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
CC: ___ pain

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
HPI: Mr. ___ is a ___ male with a past medical history
of testicular cancer and two prior episodes of diverticulitis,
who presented to urgent care with ___ and found to have
complicated diverticulitis on CT.

He reports that he first developed mild ___ pain on ___. 
By
___ the pain started worsening and by ___ it had become
severe. The pain is located in the ___ with some radiation to 
the
back. It feels similar to his prior diverticulitis pain. He did
not notice any fevers at home.

He presented yesterday to ___ urgent care where a CT was
consistent with acute diverticulitis with an 8mm intramural
abscess. Due to concern for complicated diverticulitis, he was
referred to the ED for further evaluation.

In the ED, he was given IV cipro and flagyl and IV dilaudid for
pain. Tmax was 100. He was observed overnight without 
improvement
and so decision was made to admit for further IV antibiotics.

On the floor he reports that pain is minimal at the moment but
increases to ___ with palpation.

Of note, he had at least two prior episodes of diverticulitis in
___ per Atrius records.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
PAST MEDICAL/SURGICAL HISTORY:
Asthma
Testicular cancer
Diverticulitis

 
Social History:
___
Family History:
FAMILY HISTORY: Reviewed and found to be not relevant to this
illness/reason for hospitalization. Colon cancer in paternal
grandfather at age ___

 
Physical Exam:
Admission Exam: 
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, tender to palpation in ___ with
voluntary guarding, no rigidity or peritoneal signs
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

Discharge Exam: 

 
Pertinent Results:
Admission labs: 

___ 01:50PM BLOOD WBC-12.5* RBC-5.04 Hgb-15.3 Hct-44.8 
MCV-89 MCH-30.4 MCHC-34.2 RDW-12.3 RDWSD-39.7 Plt ___
___ 01:50PM BLOOD Neuts-83.2* Lymphs-8.2* Monos-7.4 
Eos-0.2* Baso-0.3 Im ___ AbsNeut-10.39* AbsLymp-1.02* 
AbsMono-0.92* AbsEos-0.02* AbsBaso-0.04
___ 07:10AM BLOOD ___ PTT-32.8 ___
___ 01:50PM BLOOD Glucose-92 UreaN-8 Creat-0.8 Na-141 K-3.7 
Cl-97 HCO3-24 AnGap-20*
___ CULTUREBlood Culture, 
Routine-PENDINGEMERGENCY WARD
___ CULTUREBlood Culture, 
Routine-PENDINGEMERGENCY WARD
___ CULTURE-FINALEMERGENCY WARD

___ CT Abd/Pelvis:
1.  Acute diverticulitis of proximal sigmoid colon with 8mm
intramural abscess. No drainable fluid collection or 
perforation.
2.  New hepatic fatty infiltration.

Discharge labs: 

 
Brief Hospital Course:
___ w/h/o asthma, testicular cancer (s/p R orchiectomy and 
radiation in ___ and two prior episodes of diverticulitis 
which were treated with PO cipro in outpatient setting (most 
recently ___ years ago), who presented with 3 days ___ reminiscent 
of prior diverticulitis episodes, without systemic symptoms. He 
presented to ___ urgent care where CT showed acute 
diverticulitis with an 8mm intramural abscess and referred to 
___ ED where his Tmax was 100 and vital signs were otherwise 
stable. He was started on IV cipro + flagyl and IV dilaudid for 
pain and observed overnight without improvement thus admitted 
for continued monitoring and IV antibiotics. On the medical 
floor his condition improved, with resolution of abdominal pain. 
On ___ in ___ he was transitioned to PO antibiotics. He 
subsequently tolerated regular oral diet and remained afebrile. 

acute problems managed during this admission: 
# Fever, ___ pain:
# Complicated Diverticulitis:Patient did have previous two 
episodes of diverticulitis ___ years ago which were treated in 
outpatient setting. Had colonoscopy subsequently which was 
reportedly normal per patient. Does have history of pelvic 
radiation but no known history of radiation colitis and no 
history of GI symptoms or issues at baseline. Presented with 
fever, leukocytosis, and ___ pain with imaging
consistent with diverticulitis c/b 8mm intramural abscess 
without drainable fluid collection. Reviewed by surgery who 
recommended continued conservative management and ___ as 
out patient.  Managed with IV cipro/flagyl and IVF with 
resolution of fever and improvement in abdominal pain. Switched 
to PO Abx ___ and tolerated oral diet well.  

# Soft tissue/swelling on foot: this developed overnight during 
this admission and did not appear like an infection, hematoma or 
tumor. Patient does not have history of gout and doesn't look 
like a tophus. Possibly a ganglion cyst. No urgent intervention 
was deemed necessary.  

# Fatty infiltration of liver per CT scan. Patient said this was 
previously worked up. Denied heavy alcohol. Patient instructed 
to avoid heavy alcohol intake 

CHRONIC/STABLE PROBLEMS:

# GERD: continued on home omeprazole

# s/p testiculectomy and radiation for testicular cancer ___, 
was followed by oncology subsequently with CT torso's. 
Discharged from ___ ___ years ago. 

GENERAL/SUPPORTIVE CARE:

# VTE prophylaxis: on heparin subQ during this admission 
# Code Status: Full 

Transitional issues: 

- complete 10 days of abx with PO Augmentin. Last day ___
- post d/c will need colonoscopy and follow up with colorectal 
surgery for further discussion about surgical intervention given 
young age and 3 episodes of diverticulitis in the past ___ years. 
Patient should call Dr. ___ office at ___ tomorrow 
morning to arrange for a f/u appointment for within ___ weeks. 
- PCP ___ with 1 week of discharge 
- PCP to consider ___ for colonoscopy as per above. 
- PCP to consider checking LFT's and further ___ for fatty 
liver. 
- PCP to consider referral to podiatry if swelling on foot does 
not resolve completely. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN dyspnea, wheeze 
2. Omeprazole 20 mg PO DAILY 
3. Ciprofloxacin HCl 750 mg PO Q12H 
4. MetroNIDAZOLE 500 mg PO QID 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 6 Days 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth every twelve (12) hours Disp #*13 Tablet Refills:*0 
2.  Albuterol Inhaler 2 PUFF IH Q4H:PRN dyspnea, wheeze  
3.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
acute diverticulitis 
fatty liver 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for an episode of acute diverticulitis which 
improved with antibiotics. You will need to complete your 
antibiotic course at home. You will need a ___ colonoscopy 
and surgical consultation given repeated episodes in the past ___ 
years. You were also found to have fatty infiltration of your 
liver for which you will need ___ with your PCP to check 
your liver functions and consider any further work-up. It is 
recommended that you avoid alcohol completely while taking 
antibiotics and avoid heavy alcohol intake subsequently. 

Please make sure to call your PCP or present to the emergency 
department without delay if you develop any of the warning signs 
outlined below. 
 
Followup Instructions:
___